US06960598B2
A mixture of tris(dibenzylideneacetone)dipalladium(0) (23 mg, 0.025 mmol), 3′-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile (384 mg, 1.3 mmol), potassium fluoride (161 mg, 2.8 mmol) and 5-chloro-2-methyl-[1,8]naphthyridine (prepared as described by G. B. Barlin and W. L. Tan, Aust. J. Chem., 1984, 37, 1065-73; 150 mg, 0.84 mmol) was degassed by evacuating the reaction vessel and refilling it with nitrogen. Tri-tert-butylphosphine (0.50 ml of a 0.1 M solution in THF) and THF (15 ml) were added, and the mixture was degassed via three “freeze-thaw” cycles before stirring under nitrogen for 18 h. The solvent was removed in vacuo, and the residue was purified by flash chromatography on silica gel, eluting with 10% to 100% EtOAc in dichloromethane, yielding 3′-(7-methyl-[1,8]naphthyridin-4-yl)biphenyl-2-carbonitrile as a white solid (22 mg, 8%): δH (400 MHz, CDCl3) 2.83 (3H, s), 7.40 (1H, d, J 8.2), 7.45 (1H, d, J 4.3), 7.48-7.52 (1H, m), 7.57-7.60 (1H, m), 7.59 (1H, s), 7.67-7.71 (4H, m), 7.82 (1H, dd, J 0.8 and 7.8), 8.36 (1H, d, J 8.6), 9.11 (1H, d, J 4.3); m/z (ES+) 322 [MH]+.

reactant | 3′-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | 1.3 mmol, 384 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=1C(=CC=CC1)C#N)C | C19H20BNO2
reactant | potassium fluoride | 2.8 mmol, 161 mg | [F-].[K+]
reactant | 5-chloro-2-methyl-[1,8]naphthyridine | 0.84 mmol, 150 mg | ClC1=C2C=CC(=NC2=NC=C1)C | C9H7ClN2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.025 mmol, 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3′-(7-methyl-[1,8]naphthyridin-4-yl)biphenyl-2-carbonitrile | 22 mg, 8% | CC1=CC=C2C(=CC=NC2=N1)C=1C=C(C=CC1)C=1C(=CC=CC1)C#N | C22H15N3
